US04496551
Preparation of (2,4-Dichlorophenyl)dimethyl(1H-imidazol-1-ylmethyl)silane
A mixture of 5.1 g (0.020 mol) of chloromethyl(2,4-dichlorophenyl)dimethylsilane and 2.0 g (0.022 mol) of imidazole sodium salt in 10 ml of dry dimethylformamide was stirred at 80°-90° for 2 hours and worked up as in Example 23 to give 3.9 g (69%) of the title compound as a brown oil: nD23 1.5637; ir (neat) 1560, 1500, 1450, 1355, 1250, 1105, 1095, 1075, 1025, 840, 780, 735 cm-1 ; nmr (CDCl3) 0.4 (6H, s), 3.9 (2H, s), 6.7 (1H, broad s), 7.0 (1H, broad s) 7.2-7.5 (4H, m).

reactant | chloromethyl(2,4-dichlorophenyl)dimethylsilane | 0.020 mol, 5.1 g | ClC[Si](C)(C)C1=C(C=C(C=C1)Cl)Cl | C9H11Cl3Si
reactant | imidazole sodium salt | 0.022 mol, 2.0 g | [Na].N1C=NC=C1
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2,4-Dichlorophenyl)dimethyl(1H-imidazol-1-ylmethyl)silane | 3.9 g, 69% | ClC1=C(C=CC(=C1)Cl)[Si](CN1C=NC=C1)(C)C | C12H14Cl2N2Si
